2167-04-27 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - abd pain unchanged overnight- no change in pattern of quality of pain
   - dilaudid use to q2, and now back to q3
   S: pain [**9-5**] currently
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2167-4-26**] 08:00 PM
   Ciprofloxacin - [**2167-4-27**] 12:00 AM
   Vancomycin - [**2167-4-27**] 07:27 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-27**] 06:00 AM
   Hydromorphone (Dilaudid) - [**2167-4-27**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-27**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 111 (93 - 111) bpm
   BP: 118/79(87) {94/19(39) - 140/79(87)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,432 mL
                                                                  1,666 mL
   PO:
             TF:
   IVF:
                                                                  3,432 mL
                                                                  1,666 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    330 mL
   Urine:
                                                                    820 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,712 mL
                                                                  1,336 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: in pain, AOx3
   HEENT: MMM clear oropahryx
   CV: RRR
   Chest: CTAB
   Abd: TTP most severe at RLQ, but diffusely tender, no rebound currently
   Ext: no c/c/e
   Labs / Radiology
   310 K/uL
   11.9 g/dL
   191 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   23 mg/dL
   104 mEq/L
   136 mEq/L
   35.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-26**]  11:55 PM
   WBC
   10.7
   Hct
   35.4
   Plt
   310
   Cr
   0.9
   Glucose
   191
   Other labs: PT / PTT / INR:15.4/29.8/1.4, ALT / AST:[**11-10**], Alk Phos / T
   Bili:50/0.4, Amylase / Lipase:[**10-6**], Differential-Neuts:88.0 %,
   Lymph:7.9 %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, LDH:119
   IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 Ruptured appendix s/p acute appendicitis- being treated
   conservatively with IV abx
 Cipro/flagyl.  Gen [**Doctor First Name **] will reeval and
   possibly take to surgery once inflammation better
   - cont NPO
   - pain management w/ morphine prn
   - cont Cipro IV 400mg q12 and Flagyl 500 IV q8
   - IVF bolus as needed
   # [**Name (NI) 7911**] pt currently febrile, but does not complain of cough and
   wbc/fevers likely [**12-29**] appendicitis.
   - cxr in AM, cont to follow
   - if worsens will add vanc/zosyn
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 EKG stable,
   possible [**Name Prefix (Prefixes) **]
 [**Last Name (Prefixes) 7912**], BENIGN
 on home bp meds
 DIABETES MELLITUS (DM), TYPE II)
 on insulin gtt
   - will change back to sq insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Picc
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-28 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2167-4-27**] 11:46 AM
 EKG - At [**2167-4-28**] 05:00 AM
   - was going to be called, but on insulin gtt, and surgery wanted to
   moniter while on sc insulin for 12 hours
   - overnight BS b/w 150-200 w/ NPH(on half home NPH), only req 2u HISS
   overnight
   - Had SOB episode this AM, given ipratropium neb, Advair, flonase (home
   meds), CXR concerning for LL infiltrate vs edema
   -EKG with sinus tach
   Subjective:
   -abd pain still present, but improved per pt
   -nausea and emesis x 1 today
   -starting to have an appetite, on clears
   -had 5 bowel movments today, some loose
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-4-27**] 08:30 PM
   Ciprofloxacin - [**2167-4-27**] 11:55 PM
   Metronidazole - [**2167-4-28**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-27**] 09:30 PM
   Hydromorphone (Dilaudid) - [**2167-4-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 123 (107 - 123) bpm
   BP: 137/65(84) {113/53(69) - 164/96(108)} mmHg
   RR: 27 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,523 mL
                                                                    965 mL
   PO:
             TF:
   IVF:
                                                                  5,523 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    420 mL
   Urine:
                                                                    925 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,598 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: in pain when moves, AOx3
   HEENT: MMM clear oropahryx
   CV: RRR
   Chest: CTAB
   Abd: TTP most severe at RLQ, but diffusely tender, no rebound
   currently; distention present, +BS
   Ext: no c/c/e
   Labs / Radiology
   318 K/uL
   10.8 g/dL
   189 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   31.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2167-4-26**]  11:55 PM
                             [**2167-4-28**]  04:26 AM
   WBC
   10.7
   12.3
   Hct
   35.4
   31.2
   Plt
   310
   318
   Cr
   0.9
   0.8
   Glucose
   191
   189
   Other labs: PT / PTT / INR:15.4/29.8/1.4, ALT / AST:[**11-10**], Alk Phos / T
   Bili:50/0.4, Amylase / Lipase:[**10-6**], Differential-Neuts:88.0 %,
   Lymph:7.9 %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, LDH:119
   IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Blood cx: [**4-26**] pending
   Urine Cx [**4-26**]: negative
   MRSA screen: [**4-26**] negative
   Assessment and Plan
   58 yo m with hx of CAD, was admitted with sever abdominal pain in RLQ
   and distension, concerning for appy with possible perforation  vs
   inflammation being medically managed currently.
 Acute Appendicitis with possible rupture- being treated
   conservatively with IV abx.
   - Cipro/Flagyl/Vanco
   - Gen [**Doctor First Name **] following, recs [**Last Name (LF) 7939**], [**First Name3 (LF) **] take to surgery once
   inflammation improved
   - continue clears for now
   - pain management w/ morphine prn
   - cont Cipro IV 400mg q12 and Flagyl 500 IV q8
   - IVF bolus as needed
 Sinus tachycardia: Likely seconday to both pain and to inflammation.
   Sinus on EKG. Was on atenolol at home
   - changed to metoprolol 12.5 TID
   - pain medication if needed, however, do not want to mask abd pain
 SOB episode and CXR changes: possible infiltrate in left lower lung
   vs edema. WBC mildly elevated, but may be from abd infection. Pt lays
   on left side, which if it is fluid, may be why it is more visibel on
   left. However, did have some emesis and is at risk fo aspiration
   peumonitis. No current resp sx and afebrile.
   - home advair and flonase
   - PRN nebs
   - CXR in AM, cont to follow
   - Continue vanc/cipro/flagyl
 Loose Stool: 5 BMs this AM, may be secondary to abx
   - will check for C. Diff
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 EKG stable,
   possible [**Name Prefix (Prefixes) **]
   - [**Last Name (Prefixes) 666**] on beta bloker
 HYPERTENSION, BENIGN
   - on metoprolol, instead of home atenolol
 DIABETES MELLITUS (DM), TYPE II)
 Was transitioned from insulin gtt
   to sc NPH at
 home dose
   - titrate NPH as needed
   ICU Care
   Nutrition: Clears
   Glycemic Control:  NPH and SSI
   Lines: PICC
   Prophylaxis:
   DVT: SQ hep TID
   Stress ulcer:  PPI not needed for now
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition : Consider transfer to floor today after discussion with
   surgery.